US08871361B2
Sodium tert-butoxide (1.082 g, 11.27 mmol), N-phenyl-3-(1-phenyl-1H-imidazol-2-yl)aniline (2.45 g, 7.87 mmol), 2-(3-bromophenyl)-1-phenyl-1H-imidazole (2.1 g, 7.04 mmol), tris(dibenzylideneacetone)palladium(0) (Pd2dba3) (0.161 g, 0.176 mmol) and 2-Dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (S-Phos) (0.289 g, 0.704 mmol) were charged into the reaction vessel with 100 mL of toluene. This mixture was degassed with nitrogen then was heated to reflux for 24 h. The reaction mixture was cooled to room temperature then was partitioned with 100 mL of water. The toluene layer was separated and the aqueous was extracted with another 100 mL of toluene. The toluene extracts were combined, dried over magnesium sulfate then were filtered and stripped under vacuum. The crude residue was passed through a silica gel column (15-30% acetone/DCM) and was purified if necessary using neutral alumina chromatography (7-10% ethyl acetate/DCM) yielding N-phenyl-3-(1-phenyl-1H-imidazol-2-yl)-N-(3-(1-phenyl-1H-imidazol-2-yl)phenyl)aniline (1.35 g, 2.55 mmol, 36.2%).

reactant | Sodium tert-butoxide | 11.27 mmol, 1.082 g | CC(C)([O-])C.[Na+]
reactant | N-phenyl-3-(1-phenyl-1H-imidazol-2-yl)aniline | 7.87 mmol, 2.45 g | C1(=CC=CC=C1)NC1=CC(=CC=C1)C=1N(C=CN1)C1=CC=CC=C1 | C21H17N3
reactant | 2-(3-bromophenyl)-1-phenyl-1H-imidazole | 7.04 mmol, 2.1 g | BrC=1C=C(C=CC1)C=1N(C=CN1)C1=CC=CC=C1 | C15H11BrN2
reactant | 2-Dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.704 mmol, 0.289 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | N-phenyl-3-(1-phenyl-1H-imidazol-2-yl)-N-(3-(1-phenyl-1H-imidazol-2-yl)phenyl)aniline | 2.55 mmol, 1.35 g, 36.2% | C1(=CC=CC=C1)N(C1=CC(=CC=C1)C=1N(C=CN1)C1=CC=CC=C1)C1=CC(=CC=C1)C=1N(C=CN1)C1=CC=CC=C1 | C36H27N5
